US07700638B2
7-(3-Chlorophenyl)-1-Phenyl-5-trifluoromethylbenzimidazole
A mixture of 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole (1.0 g, 2.6 mmol), 3-chlorobenzeneboronic acid (0.6 g, 3.87 mmol), 1,3-propanediol (1 ml, 12.9 mmol), potassium carbonate (1.8 g, 12.9 mmol) and bis(triphenylphosphin)palladium dichloride (100 mg, 0.14 mmol) was stirred at reflux for one hour. The cooled mixture was partitioned between water and ethyl acetate. The organic extract was dried and concentrated under reduced pressure. The concentrate was purified by chromatography on silica gel eluting with a mixture of ethyl acetate and ligroin (2:3, v/v). Removal of solvent left the desired product as a white solid (0.9 g, 94%) m/z, 373.1 (M+H)+.

reactant | 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole | 2.6 mmol, 1.0 g | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F3IN2
reactant | 3-chlorobenzeneboronic acid | 3.87 mmol, 0.6 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 1,3-propanediol | 12.9 mmol, 1 ml | C(CCO)O | C3H8O2
reactant | potassium carbonate | 12.9 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
catalyst | bis(triphenylphosphin)palladium dichloride | 0.14 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(3-Chlorophenyl)-1-Phenyl-5-trifluoromethylbenzimidazole | ClC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C20H12ClF3N2
